US08466289B2
Synthesis of Intermediate 7-(4-Bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (I-4b)
BOC anhydride (21 mg, 0.0001 mol) was added to a stirred solution of 7-(4-bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (35 mg, 0.0001 mol) and DMAP (2.4 mg, 0.0001 mol) in acetonitrile (3 mL). The resulting mixture was stirred at room temperature for 2 hours. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was concentrated and partitioned between ethylacetate and water. The organic layer was concentrated to afford the crude product. Purification by column chromatography on basic alumina (60% ethylacetae in hexane) afforded 30 mg of the product (68.18% yield).

reactant | BOC anhydride | 0.0001 mol, 21 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-(4-bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 0.0001 mol, 35 mg | BrC1=CC(=C(C=C1)NC=1C(=C2N(C(C1C)=O)CCN2)[N+](=O)[O-])F | C14H12BrFN4O3
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | DMAP | 0.0001 mol, 2.4 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 7-(4-Bromo-2-fluoro-phenylamino)-6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 30 mg, 68.18% yield | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)Br)F)[N+](=O)[O-] | C19H20BrFN4O5
